US05534520
To freshly distilled 1-methylpiperidin-4-one (81.72 g, 0.72 mole) in water (200 cc), were added about 100 cc HCl 37% to pH 3. The reaction mixture was cooled in an ice bath and potassium cyanide (49 g, 0.75 mole) in water (200 cc) was added at an adequate rate in order to maintain an internal temperature of about 10° C. The reaction was stirred two hours more after the addition and then filtered. After washing with water and drying, the product, 4-hydroxy-4-cyano-1-methylpiperidine, was obtained in 67% yield as a white powder (67 g, 0.48 mole, mp. 135° C.).

reactant | 1-methylpiperidin-4-one | 0.72 mole, 81.72 g | CN1CCC(CC1)=O | C6H11NO
reactant | HCl | about 100 cc | Cl | ClH
reactant | potassium cyanide | 0.75 mole, 49 g | [C-]#N.[K+]
solvent | water | 200 cc | O | H2O
solvent | water | 200 cc | O | H2O
product | 4-hydroxy-4-cyano-1-methylpiperidine | 67% yield | OC1(CCN(CC1)C)C#N | C7H12N2O
